US06211242B1
2-Benzyloxy-4-chlorobenzoic acid (3.0 g) was heated under reflux in a mixture of benzene and t-butyl alcohol. Diphenylphosphoryl azide (3.14 g) and triethylamine (1.21 g) were added in one batch to the mixture and reflux was continued for a further 8 hours. Benzene was removed under reduced pressure and the residue taken up in ethyl acetate. An insoluble white solid was removed by filtration. The remaining organic filtrate was washed successively with diluted hydrochloric acid, water, saturated aqueous sodium hydrogen carbonate and brine. The organic layer was dried over magnesium sulfate and the solvent was evaporated to give 2-benzyloxy-4-chloro-N-tert-butoxycarbonylaniline (1.6 g).

reactant | 2-Benzyloxy-4-chlorobenzoic acid | 3.0 g | C(C1=CC=CC=C1)OC1=C(C(=O)O)C=CC(=C1)Cl | C14H11ClO3
reactant | Diphenylphosphoryl azide | 3.14 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 1.21 g | C(C)N(CC)CC | C6H15N
reactant | t-butyl alcohol | C(C)(C)(C)O | C4H10O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-benzyloxy-4-chloro-N-tert-butoxycarbonylaniline | 1.6 g | C(C1=CC=CC=C1)OC1=C(NC(=O)OC(C)(C)C)C=CC(=C1)Cl | C18H20ClNO3
